US05536718
To a chilled solution (0° C.) of 5.0 g of methyl 6-aminopyridine-3-carboxylate and 12.6 ml of diisopropylethylamine in 40 ml of dichloromethane under argon is added 12.2 g of 2-methylbenzeneacetyl chloride in 10 ml of dichloromethane. The mixture is stirred at room temperature 16 hours and diluted with 200 ml of dichloromethane and 50 ml of water. The organic layer is separated and washed with 50 ml each of 1M NaHCO3, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate concentrated to dryness. The residue (9.0 g) is purified by chromatography on silica gel with hexane-ethyl acetate (3:1) as eluent to give 0.70 g of methyl 6-[[bis(2-methylbenzeneacetyl)]amino]pyridine-3-carboxylate and 8.6 g of a mixture of methyl 6-[(2-methylbenzeneacetyl)amino]pyridine-3-carboxylate and the bis acylated product. The above mixture (8.6 g) of mono and bis acylated produce is dissolved in 60 ml of tetrahydrofuran-methanol (1:1) and 23 ml of 5N NaOH is added. The solution is stirred at room temperature for 16 hours, concentrated under vacuum, diluted with 25 ml of H2O and acidified with cold 1N HCl. The precipitated solid is filtered off and dried to give 5.9 g of white solid.

reactant | methyl 6-aminopyridine-3-carboxylate | 5.0 g | NC1=CC=C(C=N1)C(=O)OC | C7H8N2O2
reactant | diisopropylethylamine | 12.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methylbenzeneacetyl chloride | 12.2 g | CC1=C(C=CC=C1)CC(=O)Cl | C9H9ClO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | methyl 6-[[bis(2-methylbenzeneacetyl)]amino]pyridine-3-carboxylate | 0.70 g | CC1=C(C=CC=C1)CC(=O)N(C1=CC=C(C=N1)C(=O)OC)C(CC1=C(C=CC=C1)C)=O | C25H24N2O4
